US07619101B2
A 3.5 L reactor equipped with a mechanical stirrer, a Pt-100 thermometer and a nitrogen inlet was charged with 127 g (731 mmol) 1,3-diacetoxyacetone, 1.95 L TBME and 309 g (877 mmol) carbethoxymethylene triphenylphosphorane. The solution was refluxed for 5 h, then allowed to cool to RT during 14 h. Then TBME was exchanged with 2.3 L heptane at 40° C./300 mbar and the mixture was stirred overnight at RT before 400 ml toluene was added. The suspension was stirred for 1 h at RT, then 2 h at 0-4° C., filtered, and the filter cake was washed portionwise with totally 600 ml pre-cooled toluene. The combined filtrates were concentrated on a rotatory evaporator at 45° C./10 mbar to give 193 g crude product as reddish oil. This material was dissolved in 200 ml of a heptane/ethyl acetate (3:1) mixture and was chromatographically filtered over a column containing 400 g silica gel 60 using heptane/ethyl acetate (3:1) as the eluent, to give 174 g 4-acetoxy-3-acetoxymethyl-but-2-enoic acid ethyl ester (98% yield; assay: 99.9%) as a colorless oil.

reactant | Pt-100 | B([C@@H]1CCCN1C(=O)[C@H](C(C)C)N)(O)O.CS(=O)(=O)O
reactant | 1,3-diacetoxyacetone | 731 mmol, 127 g | C(C)(=O)OCC(=O)COC(C)=O | C7H10O5
reactant | TBME | 1.95 L | CC(C)(C)OC | C5H12O
reactant | carbethoxymethylene triphenylphosphorane | 877 mmol, 309 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | heptane ethyl acetate | 200 ml | CCCCCCC.C(C)(=O)OCC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | heptane | 2.3 L | CCCCCCC | C7H16
product | 4-acetoxy-3-acetoxymethyl-but-2-enoic acid ethyl ester | 174 g, 98% yield | C(C)OC(C=C(COC(C)=O)COC(C)=O)=O | C11H16O6
